### ISSUE TITLE
Unexpected behavior: duplicate goals created

### ISSUE THREAD

**Issue by AG161** [stanford-centaur/PyPantograph#97]
MWE:

```
Python 3.10.16 (main, Dec 11 2024, 16:24:50) [GCC 11.2.0] on linux
Type "help", "copyright", "credits" or "license" for more information.
>>> from pantograph import Server
>>> server = Server(imports=['MiniF2F.Minif2fImport'], project_path="/home/agittis/proofsearch/miniF2F-lean4", core_options=["maxHeartbeats=200000", "maxRecDepth=512"])
>>> text = """
... open BigOperators Real Nat Topology
... 
... theorem amc12a_2019_p21 (z : ℂ) (h₀ : z = (1 + Complex.I) / Real.sqrt 2) :
...   ((∑ k : ℤ in Finset.Icc 1 12, z ^ k ^ 2) * (∑ k : ℤ in Finset.Icc 1 12, 1 / z ^ k ^ 2)) = 36 := by sorry
... """
>>> sorries = server.load_sorry(text)
>>> theorem = sorries[1].goal_state
>>> s1 = server.goal_tactic(theorem, 0, 'ring_nf')
>>> s1
GoalState(state_id=1, goals=[Goal(id='_uniq.3728', variables=[Variable(t='ℂ', v=None, name='z'), Variable(t='z = (1 + Complex.I) / ↑√2', v=None, name='h₀')], target='(∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36', sibling_dep=[], name=None, is_conversion=False)], _sentinel=[])
>>> print(s1)
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
>>> s2 = server.goal_tactic(s1, 0, 'ring_nf')
>>> print(s2)
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
>>> 
```

Repeated applications of `ring_nf` (which has no effect after the first one) will continue to add the same duplicate goal to the list of goals:

```
...
>>> print(s4)
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
z : ℂ
h₀ : z = (1 + Complex.I) / ↑√2
⊢ (∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36
```

It doesn't look this way in Lean, so I think it may be a bug.

**Comment by lenianiva** [comment]
Can you print out s2 without prettyprinting?

**Comment by AG161** [comment]
```
>>> s2
GoalState(state_id=2, goals=[Goal(id='_uniq.3728', variables=[Variable(t='ℂ', v=None, name='z'), Variable(t='z = (1 + Complex.I) / ↑√2', v=None, name='h₀')], target='(∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36', sibling_dep=[], name=None, is_conversion=False), Goal(id='_uniq.3728', variables=[Variable(t='ℂ', v=None, name='z'), Variable(t='z = (1 + Complex.I) / ↑√2', v=None, name='h₀')], target='(∑ x ∈ Finset.Icc 1 12, z ^ x ^ 2) * ∑ x ∈ Finset.Icc 1 12, 1 / z ^ x ^ 2 = 36', sibling_dep=[], name=None, is_conversion=False)], _sentinel=[])
>>> 
```

**Comment by lenianiva** [comment]
This may be a mathlib tactic bug for `ring_nf`. The tactic could not make progress, yet it returns the goal that it could not make progress on.

**Comment by lenianiva** [comment]
> When I write `ring_nf` twice in the VS Code environment, the infoview shows that there is only 1 goal. So I don't think the behavior is the same.

When a tactic can't make any progress it is supposed to fail, not just silently leave the same goal in place.

**Comment by AG161** [comment]
I'm not sure that's the case. For example, this proof works in VS Code:
```
theorem mathd_algebra_10 : abs ((120 : ℝ) / 100 * 30 - 130 / 100 * 20) = 10 := by
  ring_nf
  ring_nf
  ring_nf
  norm_num
```
The last two `ring_nf` commands do not affect the state, but the proof above still works. The linter will just let you know the last two applications did nothing. So it seems like those `ring_nf` commands are leaving the same goal in place. They aren't duplicating the goal and adding it to the state in the infoview.

**Comment by lenianiva** [comment]
> I'm not sure that's the case. For example, this proof works in VS Code:
> 
> ```
> theorem mathd_algebra_10 : abs ((120 : ℝ) / 100 * 30 - 130 / 100 * 20) = 10 := by
>   ring_nf
>   ring_nf
>   ring_nf
>   norm_num
> ```
> 
> The last two `ring_nf` commands do not affect the state, but the proof above still works. The linter will just let you know the last two applications did nothing. So it seems like those `ring_nf` commands are leaving the same goal in place. They aren't duplicating the goal and adding it to the state in the infoview.

When you run `simp` and `simp` can't make any progress, it will throw an error and tell you it could not make progress. That is correct tactic behaviour. Tactics are basically black boxes and Pantograph relies on these contracts to ensure tree search is consistent.

The goal duplication only exists in automatic mode, where we assume that a tactic either makes progress or it does not.

This tactic leaves the same goal in place but signals no error. This is pathological behaviour.

**Comment by AG161** [comment]
I see. I will ask some mathlib maintainers about it then. The tactic `ring` also has this behavior by the way.

**Comment by lenianiva** [comment]
> I see. I will ask some mathlib maintainers about it then. The tactic `ring` also has this behavior by the way.

I could also add checks to Pantograph, but this is just one pathological tactic behaviour. A tactic can do pretty much anything including unsetting goals, deleting goals, messing with the cache, etc. A general checker to handle all of these cases would drastically slow down tactic execution.

**Comment by AG161** [comment]
> I could also add checks to Pantograph, but this is just one pathological tactic behaviour. A tactic can do pretty much anything including unsetting goals, deleting goals, messing with the cache, etc. A general checker to handle all of these cases would drastically slow down tactic execution.

I understand. I talked to a mathlib maintainer who confirmed that correct tactic design requires that the tactic returns an error if it doesn't have any effect. I may submit some PRs for `ring` and `ring_nf`. 

In my case I'm using pantograph with an automated prover, and since it commonly suggests `ring` or `ring_nf`, anytime it doesn't have an effect the goal state duplicates, so the prover keeps recommending the same tactic over and over. The duplication eventually causes the context window to overflow. I think there could be an argument for pantograph to handle pathological tactics that are built-in to mathlib, but I agree that it's better if it's fixed on the mathlib side. For me it's totally trivial to fix on my end now that I know about it, so I think it's safe to mark the issue as closed.

**Comment by lenianiva** [comment]
> > I could also add checks to Pantograph, but this is just one pathological tactic behaviour. A tactic can do pretty much anything including unsetting goals, deleting goals, messing with the cache, etc. A general checker to handle all of these cases would drastically slow down tactic execution.
> 
> I understand. I talked to a mathlib maintainer who confirmed that correct tactic design requires that the tactic returns an error if it doesn't have any effect. I may submit some PRs for `ring` and `ring_nf`.
> 
> In my case I'm using pantograph with an automated prover, and since it commonly suggests `ring` or `ring_nf`, anytime it doesn't have an effect the goal state duplicates, so the prover keeps recommending the same tactic over and over. The duplication eventually causes the context window to overflow. I think there could be an argument for pantograph to handle pathological tactics that are built-in to mathlib, but I agree that it's better if it's fixed on the mathlib side. For me it's totally trivial to fix on my end now that I know about it, so I think it's safe to mark the issue as closed.

I plan to add a mechanism in 0.3.1 to prevent this kind of behaviour

**Comment by plp127** [comment]
leanprover-community/mathlib4#24529
